US08314087B2
tert-Butyl 2-(3-(4-methylthiophen-2-yl)-6-oxopyridazin-1(6H)-yl)ethylcarbamate.
A suspension of tert-butyl 2-(3-chloro-6-oxopyridazin-1(6H)-yl)ethylcarbamate (2000 mg, 7.31 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (535 mg, 0.731 mmol), and 4-methylthiophen-2-ylboronic acid (2075 mg, 14.6 mmol) in DME (1.6 mL) with Na2CO3 (10.9 mL, 21.9 mmol) [2M] was sparged with argon for 1 min, then heated to 90° C. for 2 h. The mixture was partitioned between CH2Cl2 and 5% NaHCO3, and the organic layer was dried over MgSO4 and dried onto dry silica. The product was purified on 80 g silica eluting with 1>2.5% MeOH/CH2Cl2. MS (ESI pos. ion) m/z (MH+): 336 Calc'd exact mass for C16H21N3O3S: 335. 1H NMR (400 MHz, Chloroform-d) δ ppm 1.40 (s, 9 H) 2.28 (s, 3 H) 3.61 (d, J=5.02 Hz, 2 H) 4.32 (t, J=5.27 Hz, 2 H) 5.11 (br. s., 1 H) 6.91-6.99 (m, 2 H) 7.20 (s, 1 H) 7.55 (d, J=10.04 Hz, 1 H). 13C NMR (101 MHz, Chloroform-d) δ ppm 13.71, 26.35, 37.78, 49.41, 77.33, 121.32, 125.75, 127.40, 127.95, 136.53, 139.01, 153.88, 157.97.

reactant | tert-butyl 2-(3-chloro-6-oxopyridazin-1(6H)-yl)ethylcarbamate | 7.31 mmol, 2000 mg | ClC1=NN(C(C=C1)=O)CCNC(OC(C)(C)C)=O | C11H16ClN3O3
reactant | 4-methylthiophen-2-ylboronic acid | 14.6 mmol, 2075 mg | CC=1C=C(SC1)B(O)O | C5H7BO2S
reactant | Na2CO3 | 21.9 mmol, 2M, 10.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 1.6 mL | COCCOC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 0.731 mmol, 535 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl 2-(3-(4-methylthiophen-2-yl)-6-oxopyridazin-1(6H)-yl)ethylcarbamate | CC=1C=C(SC1)C1=NN(C(C=C1)=O)CCNC(OC(C)(C)C)=O | C16H21N3O3S
